US06194410B1
0.15 g (1.5 mmol) of 1-methyl-piperazine in 10 ml of DMF was added to a solution of 0.45 g (1.275 mmol) of 3-benzenesulphonyl-7-chloro-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine in 10 ml in DMF and stirred at 60° for 2 hrs. The reaction solution was cooled to RT and evaporated in a high vacuum. The residue was partitioned between 2N NaOH and CH2Cl2. The aqueous phase was extracted three times with CH2Cl2, and the combined organic phases were dried (MgSO4), filtered and evaporated. Subsequent chromatography (SiO2, CH2Cl2/MeOH 15:1) and crystallization from EtOH yielded 0.40 g (75%) of 3-benzenesulphonyl-5-methyl-7-(4-methyl-piperazine-1-yl) -2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine as colorless crystals, m.p. 209-210°.

reactant | 1-methyl-piperazine | 1.5 mmol, 0.15 g | CN1CCNCC1 | C5H12N2
reactant | 3-benzenesulphonyl-7-chloro-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine | 1.275 mmol, 0.45 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2Cl)C)SC | C14H12ClN3O2S2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-benzenesulphonyl-5-methyl-7-(4-methyl-piperazine-1-yl) -2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine | 0.40 g, 75% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N2CCN(CC2)C)C)SC | C19H23N5O2S2
